US08609653B2
2-(1-(4-(1H-1,2,4-triazol-1-yl)benzyl)-4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-(tert-butoxy)acetic acid
The title compound was prepared in a manner similar to that described in Example 27, Step H from methyl 2-(tert-butoxy)-2-(4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate and 1-(4-(bromomethyl)phenyl)-1H-1,2,4-triazole. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.61 (br. s., 1 H), 8.13 (br. s., 1 H), 7.67 (d, J=8.4 Hz, 2 H), 7.52-7.39 (m, 3 H), 7.24-7.17 (m, 1 H), 7.12 (t, J=3.1 Hz, 1 H), 6.95 (dd, J=4.7, 8.4 Hz, 1 H), 6.37 (dd, J=3.5, 11.3 Hz, 1 H), 5.80-5.70 (m, 1 H), 5.64-5.52 (m, 2 H), 4.30 (t, J=4.2 Hz, 2 H), 2.96-2.77 (m, 5 H), 2.16-2.05 (m, 2 H), 1.05-0.91 (s, 9 H); LC/MS (m/z) ES+=552.39 (M+1).

reactant | methyl 2-(tert-butoxy)-2-(4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate | C(C)(C)(C)OC(C(=O)OC)C=1C(=C2C(=NC1C)NC=C2)C=2C=C1CCCOC1=CC2 | C24H28N2O4
reactant | 1-(4-(bromomethyl)phenyl)-1H-1,2,4-triazole | BrCC1=CC=C(C=C1)N1N=CN=C1 | C9H8BrN3
product | 2-(1-(4-(1H-1,2,4-triazol-1-yl)benzyl)-4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-(tert-butoxy)acetic acid | N1(N=CN=C1)C1=CC=C(CN2C=CC=3C2=NC(=C(C3C=3C=C2CCCOC2=CC3)C(C(=O)O)OC(C)(C)C)C)C=C1 | C32H33N5O4
